US04818819
A mixture of 0.59 g of diethyl N-[4-(2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-ylethynyl)benzoyl]-L-glutamate and 1.5 g of 59% palladium on charcoal in 30 ml of trifluoroacetic acid is hydrogenated at 53 psi at room temperature for 24.5 hours. The reaction mixture is diluted with methylene chloride and filtered through Celite. The solvent is removed under reduced pressure. The residue is redissolved in methylene chloride and extracted with a saturated sodium bicarbonate solution and dried over anhydrous sodium sulfate. The solvent is removed under reduced pressure and the residue chromatographed on silica gel using a 4% methanol:methylene chloride mixture as the eluent. Evaporation of the eluate yields 0.60 g (100%) of diethyl N-(4-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoyl)-L-glutamate as a white solid: m.p. >250° C.; NMR (CDCl3, 300 MHz) delta 1.22 (t, 3H, J=7.20 Hz), 1.29 (s, 9H), 1.30 (t, 3H, J=7.20 Hz), 1.61-3.35 (m, 13 H), 4.11 (q, 2H, J=7.20 Hz), 4.23 (q, 2H, J=7.20 Hz), 4.77-4.84 (m, 1H), 5.15 (brs, 1H), 7.17 (d, 1H, J=7.50 Hz), 7.23 (d, 2H, J=8.10 Hz), 8.56 (brs, 1H); IR (KBr) 3400, 3280, 2980, 1735, 1630, 1570, 1460, 1390, 1350, 1310, 1200, 1155, 1025, 930, and 800 cm-1.

reactant | diethyl N-[4-(2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-ylethynyl)benzoyl]-L-glutamate | 0.59 g | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C#CC2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2)O | C30H33N5O7
catalyst | palladium on charcoal | 1.5 g | [Pd] | Pd
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | diethyl N-(4-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]benzoyl)-L-glutamate | 0.60 g, 100% | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)NCC(C2)CCC2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2)O | C30H41N5O7
